US08445510B2
2-Chloro-4-difluoromethoxy-3-dimethoxymethyl-1-fluorobenzene
In a single neck flask, 3-chloro-2-dimethoxymethyl-4-fluorophenol (22 g, 100 mmol), sodium chlorodifluoroactate (30.3 g, 200 mmol) and potassium carbonate (27.5 g, 200 mmol) were taken up in DMF (145 mL) under nitrogen atmosphere and heated at 90° C. for 16 h. The reaction mixture was cooled to room temperature, poured into water and extracted with ethyl acetate (2×200 mL, 100 mL). The combined organic layers were washed with water, dried over sodium sulfate, filtered and concentrated to give crude product, which was purified by column chromatography on silica gel using 10% ethyl acetate in hexane as an eluent to give 17 g (63% yield) of the title compound. 1H NMR (CDCl3, 300 MHz): δ=7.11-7.13 (m, 2H), 6.45 (t, J=75 Hz, 1H), 5.70 (s, 1H), 3.46 (s, 6H).

reactant | 3-chloro-2-dimethoxymethyl-4-fluorophenol | 100 mmol, 22 g | ClC=1C(=C(C=CC1F)O)C(OC)OC | C9H10ClFO3
reactant | sodium chlorodifluoroactate | 200 mmol, 30.3 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | potassium carbonate | 200 mmol, 27.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 145 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-4-difluoromethoxy-3-dimethoxymethyl-1-fluorobenzene | 17 g, 63% yield | ClC1=C(C=CC(=C1C(OC)OC)OC(F)F)F | C10H10ClF3O3
